US08669271B2
(S)-4-[5-(4-Methanesulfonyl-phenyl)-2-methyl-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from (S)-4-(5-chloro-2-methyl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 4-(methanesulfonyl)phenylboronic acid following a procedure analogous to that described in Example 28. LC (method 6): tR=1.19 min; Mass spectrum (ESI+): m/z=473 [M+H]+.

reactant | (S)-4-(5-chloro-2-methyl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)[C@@]1(CC=2C(=CN=C(C2)Cl)O1)C | C18H25ClN2O3
reactant | 4-(methanesulfonyl)phenylboronic acid | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
product | (S)-4-[5-(4-Methanesulfonyl-phenyl)-2-methyl-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)[C@@]1(CC=2C(=CN=C(C2)C2=CC=C(C=C2)S(=O)(=O)C)O1)C | C25H32N2O5S
